US05246948
Synthesis of 5,5-dimethyl- 3-[4-(4-pyridylthio)butyl]hydantoin
To a solution of 2.56 g (20 mmol) of 5,5-dimethylhydantoin and 4.03 g (20 mmol) of 4-(4-chlorobutylthio)pyridine in 20 ml of N,N-dimethylformamide, 3.00 ml (20 mmol) of 1,8-diazabicyclo[5.4.0]-7-undecene was added, and the mixture was stirred at room temperature for 43 hours, followed by further stirring at 70° C. for 10 hours. Ethyl acetate was added to the reaction mixture, and the mixture was washed three times with water and dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was purified by column chromatography (eluent: ethyl acetate/ethanol =10:1) to give 3.33 g of the desired compound (56.8% yield, colorless crystals).

reactant | 5,5-dimethylhydantoin | 20 mmol, 2.56 g | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
reactant | 4-(4-chlorobutylthio)pyridine | 20 mmol, 4.03 g | ClCCCCSC1=CC=NC=C1 | C9H12ClNS
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 20 mmol, 3.00 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5,5-dimethyl- 3-[4-(4-pyridylthio)butyl]hydantoin | 3.33 g, 56.8% yield | CC1(C(N(C(N1)=O)CCCCSC1=CC=NC=C1)=O)C | C14H19N3O2S
